US05639779
5-(2-Ethylsulphonylethyl)-3-[N-[2-pyridylmethyl)-2(R)-pyrrolidinylmethyl]-1H-indole
To a stirred solution of 5-(2-ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole (Preparation 5; 150 mg, 0.47 mmol) in dry dimethylformamide (4 ml) at room temperature under nitrogen were added, sequentially, anhydrous sodium carbonate (110 mg, 1.04 mmol), 2-pyridylmethyl chloride hydrochloride (85 mg, 0.52 mmol) and sodium iodide (10 mg). The resulting mixture was heated at 100° C. for 18 hours, then allowed to cool to room temperature. It was then partitioned between ethyl acetate and water, and the organic phase separated, washed with water (3×), dried (Na2SO4), and evaporated under reduced pressure to give an oil. Purification by column chromatography on silica gel, eluting with an ethanol in dichloromethane gradient (0 to 5% ethanol), afforded the title compound as a gum (62 mg). [α]D25 +22° (c=0.1, CH3OH). Found: C,59.89; H,6.44; N,9.07. C23H29N3O2S; 0.75 CH2Cl2 requires C,60.02; H,6.47; N,8.84%. δCDCl3): 1.35(3H,t), 1.50-1.90(4H,m), 2.30-2.40(1H,m), 2.65-2.75(1H,m), 2.90(3H,q and m), 3.00-3.20(2H,m), 3.20-3.30(4H,m), 3.60(1H,d), 4.28(1H,d), 5.30(1.5H,s,CH2Cl2), 7.02(1H,d), 7.05(1H,s), 7.16-7.20(1H,dd), 7.30(1H,d), 7.40(1H,s), 7.50(1H,d), 7.70(1H,dd), 8.14(1H,br s), 8.58(1H,d).

reactant | 5-(2-ethylsulphonylethyl)-3-(2(R)-pyrrolidinylmethyl)-1H-indole | 0.47 mmol, 150 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1NCCC1 | C17H24N2O2S
reactant | sodium carbonate | 1.04 mmol, 110 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-pyridylmethyl chloride hydrochloride | 0.52 mmol, 85 mg | Cl.N1=C(C=CC=C1)CCl
reactant | sodium iodide | 10 mg | [I-].[Na+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 5-(2-Ethylsulphonylethyl)-3-[N-[2-pyridylmethyl)-2(R)-pyrrolidinylmethyl]-1H-indole | 62 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)CC1=NC=CC=C1 | C23H29N3O2S
